US20010021718A1
(3R)-6-Cyclohexyl-N-hydroxy-3-[3-(3-pyridinylmethyl)-1,2,4-oxadiazol-5-yl]hexanamide
A solution of (3R)-6-cyclohexyl-3-[3-(3-pyridinylmethyl)-1,2,4-oxadiazol-5-yl]hexanoic acid (Preparation 109) (410 mg, 1.04 mmol) in dichloromethane (10 ml) was treated with 1,1′-carbonyidiimidazole (169 mg, 1.04 mmol) and stirred under a nitrogen atmosphere for 1 hour. O-(Trimethylsilyl)hydroxylamine (418 μl, 3.12 mmol) was added and the reation mixture was stirred for 18 hours. The reaction mixture was then treated with methanol (5 ml) and stirred at room temperature for 3 hours. The solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate and washed with water (3×30 ml) and brine, dried over anhydrous magnesium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a solvent gradient of 100:0 (dichloromethane:methanol) gradually changing to 95:5 (dichloromethane:methanol) to afford a white waxy solid. The solid was recrystallised from ethyl acetate to afford the title compound as a white solid (128 mg).

reactant | (3R)-6-cyclohexyl-3-[3-(3-pyridinylmethyl)-1,2,4-oxadiazol-5-yl]hexanoic acid | 1.04 mmol, 410 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)CC=1C=NC=CC1 | C20H27N3O3
reactant | 1,1′-carbonyidiimidazole | 1.04 mmol, 169 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | O-(Trimethylsilyl)hydroxylamine | 3.12 mmol, 418 μl | C[Si](ON)(C)C | C3H11NOSi
reactant | methanol | 5 ml | CO | CH4O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (3R)-6-Cyclohexyl-N-hydroxy-3-[3-(3-pyridinylmethyl)-1,2,4-oxadiazol-5-yl]hexanamide | 128 mg | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)CC=1C=NC=CC1 | C20H28N4O3
